US08980911B2
A solution of benzyl 3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate 5-oxide (2.6 g, 8.53 mmol) in chloroform was treated dropwise with 2,4,4-trimethylpentan-2-amine (6.026 mL, 37.54 mmol) and stirred for about 15 minutes. The mixture was cooled to 0° C. followed by the portion wise addition of p-toluenesulphonyl chloride (3.578 g, 18.77 mmol). The reaction mixture was then stirred at room temperature for about 1 hour, diluted with dichloromethane and washed with saturated aq. sodium bicarbonate solution. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated under vacuum to get viscous oil. The crude product was purified by silica gel column chromatography using ethyl acetate and hexane (1%) to yield benzyl 3-chloro-4-[(2,4,4-trimethylpentan-2-yl)amino]-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (610.8 mg, 43%) as a pale yellow solid.

reactant | benzyl 3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate 5-oxide | 8.53 mmol, 2.6 g | ClC1=CN(C2=C1C=[N+](C=C2)[O-])C(=O)OCC2=CC=CC=C2 | C15H11ClN2O3
reactant | 2,4,4-trimethylpentan-2-amine | 37.54 mmol, 6.026 mL | CC(C)(CC(C)(C)C)N | C8H19N
reactant | p-toluenesulphonyl chloride | 18.77 mmol, 3.578 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | benzyl 3-chloro-4-[(2,4,4-trimethylpentan-2-yl)amino]-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 610.8 mg, 43% | ClC1=CN(C2=C1C(=NC=C2)NC(C)(CC(C)(C)C)C)C(=O)OCC2=CC=CC=C2 | C23H28ClN3O2
